US07728130B2
A solution of ethyl 2-(6-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate (202 mg, 527 μmol), Pd2 dba3.CHCl3 (55 mg, 53 μmol), X-Phos (50 mg, 105 μmol) and morpholine (115 μl, 1318 μmol) in 1,4-dioxane (3 ml) was treated with sodium tert-butoxide (203 mg, 2109 μmol). The reaction was stirred at 80° C. in a sealed tube. After 21 hours, the solution was adsorbed onto silica gel, concentrated in vacuo and purified by silica gel chromatography (eluant: 4% methanol/dichloromethane, followed by/dichloromethane+1% AcOH) and subsequently by RP HPLC (0-100% MeCN/water+1% TFA, 10 min) affording 21 mg (11%) of 2-(4-hydroxy-1-methyl-6-morpholino-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid as an yellow solid.

reactant | ethyl 2-(6-bromo-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetate | 527 μmol, 202 mg | BrC=1C=C2C(=C(C(N(C2=CC1)C)=O)C(=O)NCC(=O)OCC)O | C15H15BrN2O5
reactant | CHCl3 | 53 μmol, 55 mg | C(Cl)(Cl)Cl | CHCl3
reactant | X-Phos | 105 μmol, 50 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | morpholine | 1318 μmol, 115 μl | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 2109 μmol, 203 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-hydroxy-1-methyl-6-morpholino-2-oxo-1,2-dihydroquinoline-3-carboxamido)acetic acid | 21 mg, 11% | OC1=C(C(N(C2=CC=C(C=C12)N1CCOCC1)C)=O)C(=O)NCC(=O)O | C17H19N3O6
